US06998497B2
Tungsten Bis-triflimide
Tungsten metal (1.0 g, 99% purity) filings were suspended in water (20 mL) and hydrogen bis-triflimide (HNTf2) (5 g) was added. This mixture was heated under reflux for 144 hours. The resultant slurry was cooled, filtered and concentrated on a rotary evaporator to give a colourless solution that crystalised on standing. The crystals were heated at 150° C. at 1 mmHg to remove the residual water and hydrogen bis-triflimide. The precise structure of the catalyst is not known, but it was found to be the best of all isolated metal bis-triflimide catalysts tested in the reaction of benzoyl chloride with toluene.

reactant | Tungsten | 1.0 g | [W] | W
reactant | HNTf2 | 5 g | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2HF6NO4S2
solvent | water | 20 mL | O | H2O
product | Tungsten Bis-triflimide | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[W] | InChI=1S/2C2HF6NO4S2.W/c2*3-1(4,5)14(10,11)9-15(12,13)2(6,7)8;/h2*9H;
